US06660759B1
To a solution of oxalyl chloride (0.050 mL) in CH2Cl2 (10 mL) was added a solution of DMSO (0.061 mL) in CH2Cl2 (0.5 mL) keeping the temperature below −55° C., and stirred for 30 minutes. To the mixture was added a solution of ethyl 3-{[(2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidin-1-yl]methyl}phenoxyacetate (238 mg) in CH2Cl2 (3 mL) at the same temperature, then stirred for 1 hour. To the reaction mixture was added triethylamine (0.27 mL), and warmed to room temperature over 30 minutes. After stirring at the same temperature for 30 minutes, the mixture was diluted with EtOAc, washed with water, saturated sodium hydrogen carbonate, water and brine, dried (MgSO4), evaporated. The residue was purified by silica gel column chromatography (hexane-EtOAc 2:1) to give ethyl 3-{[(2R)-2-(4,5-diphenyloxazol-2-yl)-4-oxopyrrolidin-1-yl]methyl}phenoxyacetate (191.8 mg).

reactant | oxalyl chloride | 0.050 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.061 mL | CS(=O)C | C2H6OS
reactant | ethyl 3-{[(2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidin-1-yl]methyl}phenoxyacetate | 238 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(C[C@@H](C1)O)CC=1C=C(OCC(=O)OCC)C=CC1 | C30H30N2O5
reactant | triethylamine | 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-{[(2R)-2-(4,5-diphenyloxazol-2-yl)-4-oxopyrrolidin-1-yl]methyl}phenoxyacetate | 191.8 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(CC(C1)=O)CC=1C=C(OCC(=O)OCC)C=CC1 | C30H28N2O5
